US06359138B1
(RS)-5-Methoxy-2,3-dihydro-1H-indole-2-carboxylic Acid Methyl Ester
To 5-methoxy-1H-indole-2-carboxylic acid ethyl ester (5 g, 22.8 mmol) in MeOH (150 ml) was added magnesium turnings (2.2 g, 91.6 mmol, 4eq.) and the mixture vigorously mechanically stirred (10-30° C.) for 2 hr. 4N HCl was added (to pH1-2), then 25% NH4OH (to pH 7), and the mixture extracted with EtOAc (4×100 ml). The combined extracts were then washed with satd. NaCl solution (50 ml), dried (Na2SO4) filtered and evaporated. The crude green oil was chromatographed over SiO2 (Merck 230-400 mesh) eluting with EtOAc-nHexane (1:3) to afford the title compound (3.21g, 15.5 mmol, 68%) as a yellow solid Mp. 59-61° C., MS: m/e=207.1 (M+).

reactant | 5-methoxy-1H-indole-2-carboxylic acid ethyl ester | 22.8 mmol, 5 g | C(C)OC(=O)C=1NC2=CC=C(C=C2C1)OC | C12H13NO3
reactant | magnesium | 91.6 mmol, 2.2 g, 4eq. | [Mg] | Mg
reactant | HCl | 4N | Cl | ClH
solvent | MeOH | 150 ml | CO | CH4O
product | (RS)-5-Methoxy-2,3-dihydro-1H-indole-2-carboxylic Acid Methyl Ester | 15.5 mmol, 3.21g, 68% | COC(=O)C1NC2=CC=C(C=C2C1)OC | C11H13NO3
